US05281748
3.03 g (0.01 mol) of aminomethylenediphosphonic acid tetraethyl ester, 2.3 g (0.01 mol) of 3-phenoxypropylbromide and 1.4 g (0.01 mol) of potassium carbonate are dissolved in 50 ml of dioxane and stirred under reflux for 24 hours. The major part of the solvent is distilled off, and the residue is partitioned between water and ethyl acetate. The organic layer is separated, washed with water, dried over sodium sulphate and evaporated to dryness yielding raw N-(3-phenoxypropyl)aminomethanediphosphonic acid tetraethyl ester which may be used without further purification.

reactant | aminomethylenediphosphonic acid tetraethyl ester | 0.01 mol, 3.03 g | C(C)OP(OCC)(=O)C(P(OCC)(OCC)=O)N | C9H23NO6P2
reactant | 3-phenoxypropylbromide | 0.01 mol, 2.3 g | O(C1=CC=CC=C1)CCCBr | C9H11BrO
reactant | potassium carbonate | 0.01 mol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | N-(3-phenoxypropyl)aminomethanediphosphonic acid tetraethyl ester | C(C)OP(OCC)(=O)C(P(OCC)(=O)OCC)NCCCOC1=CC=CC=C1 | C18H33NO7P2
